US06890940B2
4-Ethoxy-3,5-dimethoxyphenylboronic acid
Under argon, a 1.60 M solution of n-butyllithium in hexane (2.5 mL, 4.1 mmol) was added to anhydrous tetrahydrofuran (7.0 mL) stirred in a dry ice-acetone bath, followed by dropwise addition of a solution of 4-ethoxy-1-iodo-3,5-dimethoxybenzene (570.0 mg, 1.85 mmol) in anhydrous tetrahydrofuran (1.5 mL). After the mixture was stirred for 20 minutes in the dry ice-acetone bath, triisopropyl borate (0.50 mL, 2.2 mmol) was added, and the mixture was additionally stirred for 20 minutes. The reaction mixture was stirred at room temperature for 1 hour, and concentrated under reduced pressure. To the residue, a 0.1 M aqueous sodium hydroxide (4.4 mL) solution was added. The aqueous solution was washed with chloroform, acidified by the addition of concentrated hydrochloric acid, and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Chloroform-hexane was added to the residue and the resulting precipitate was collected by filtration to afford the title compound as a colorless amorphous powder (162.0 mg, yield: 39%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 4.1 mmol, 2.5 mL | CCCCCC | C6H14
reactant | 4-ethoxy-1-iodo-3,5-dimethoxybenzene | 1.85 mmol, 570.0 mg | C(C)OC1=C(C=C(C=C1OC)I)OC | C10H13IO3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | triisopropyl borate | 2.2 mmol, 0.50 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
product | 4-Ethoxy-3,5-dimethoxyphenylboronic acid | 162.0 mg, yield: 39% | C(C)OC1=C(C=C(C=C1OC)B(O)O)OC | C10H15BO5
